US07425631B2
Step A. Preparation of 6-(2-dimethylamino-ethoxy)-3,4-dihydro-2H-naphthalen-1-one
To a mixture of 6-hydroxy-1-tetralone (Aldrich, 1.0 g, 6.17 mmol, 1.0 eq), N,N-dimethylethanolamine (Aldrich, 0.93 mL, 9.26 mmol, 1.5 eq), and triphenylphosphine (Aldrich, 2.43 g, 9.26 mmol, 1.5 eq) in THF (10 mL) was added diethyl azodicarboxylate (Aldrich, 1.94 mL, 12.34 mmol, 2.0 eq) at 0° C. The reaction mixture was gradually warmed to RT and continued to stir overnight. The solvent was evaporated in vacuo. The residue was purified by silica gel chromatography (3%-5% MeOH—CH2Cl2) to provide the product as orange oil. MS (ESI): 234 (M+H)+.

reactant | 6-hydroxy-1-tetralone | 6.17 mmol, 1.0 g, 1.0 eq | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | N,N-dimethylethanolamine | 9.26 mmol, 0.93 mL, 1.5 eq | CN(CCO)C | C4H11NO
reactant | triphenylphosphine | 9.26 mmol, 2.43 g, 1.5 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 12.34 mmol, 1.94 mL, 2.0 eq | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(2-dimethylamino-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | CN(CCOC=1C=C2CCCC(C2=CC1)=O)C | C14H19NO2
